US05877199
Isopropyl (9-Benzyl-4-methyl-1-n-propylthiocarbazol-2-yl)acetate
0.1 ml of anhydrous trifluoroacetic acid was added to 5 ml of a solution of 100 mg isopropyl (9-benzyl-4-methyl-1-methylsulfinylcarbazol-2-yl)acetate, as obtained in Example 215, in methylene chloride, and the reaction mixture was refluxed for 30 minutes. The solvent was then removed by evaporation under reduced pressure and the residue was dissolved in 2 ml of methylene chloride. 0.5 ml of n-propyl iodide, 1 ml of triethylamine and 1 ml of methanol were then all added to the resulting solution at room temperature and the reaction mixture was stirred for 30 minutes. After this time, the reaction mixture was diluted with an excess of ethyl acetate, and washed with a dilute aqueous solution of hydrogen chloride, a saturated aqueous solution of sodium hydrogencarbonate and a saturated aqueous solution of sodium chloride, in that order. The resulting organic layer was dried over anhydrous sodium sulfate and then the solvent was removed by evaporation under reduced pressure. The residue was subjected to column chromatography (eluent: a 4-6% v/v solution of ethyl acetate in hexane) to yield 86 mg of the title compound as a solid.

reactant | trifluoroacetic acid | 0.1 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | isopropyl (9-benzyl-4-methyl-1-methylsulfinylcarbazol-2-yl)acetate | 100 mg | C(C1=CC=CC=C1)N1C2=CC=CC=C2C=2C(=CC(=C(C12)S(=O)C)CC(=O)OC(C)C)C | C26H27NO3S
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | Isopropyl (9-Benzyl-4-methyl-1-n-propylthiocarbazol-2-yl)acetate | 86 mg | C(C1=CC=CC=C1)N1C2=CC=CC=C2C=2C(=CC(=C(C12)SCCC)CC(=O)OC(C)C)C | C28H31NO2S
